US03989758
198 g. of 1,1-diethoxy-4-methyl-4-hexen-2-yn-6-ol are hydrogenated in the usual manner in the presence of 35 g. of a lead/palladium/calcium carbonate catalyst, 5 ml. of quinoline and 1500 ml. of high boiling petroleum ether. There is obtained 1,1-diethoxy-4-methyl-2,4-hexadien-6-ol of boiling point 96°-98° (0.01 mm.); nD20 = 1.4730 - 1.4760.

reactant | 1,1-diethoxy-4-methyl-4-hexen-2-yn-6-ol | C(C)OC(C#CC(=CCO)C)OCC | C11H18O3
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | palladium/calcium carbonate | [Pd] | Pd
product | 1,1-diethoxy-4-methyl-2,4-hexadien-6-ol | C(C)OC(C=CC(=CCO)C)OCC | C11H20O3
